US08648069B2
N,N-dimethyl-1H-indazole-3-carboxamide
1H-Indazole-3-carboxylic acid (5.0 g, 30.8 mmol) and carbonyl diimidazole (5.0 g, 33.9 mmol) were dissolved in N,N-dimethylformamide (150 mL) and heated to 60° C. After 2 hours, dimethylamine hydrochloride (4.0 g, 33.9) was added, and the reaction was stirred for an additional hour at 60° C. The reaction was poured into water, and the aqueous phase was extracted with ethyl acetate (3×150 mL). The combined organic phases were washed sequentially with aqueous sodium bicarbonate, 10% hydrochloric acid, water and brine. After drying over magnesium sulfate, filtering and concentrating in vacuo, the title compound was obtained.

reactant | 1H-Indazole-3-carboxylic acid | 30.8 mmol, 5.0 g | N1N=C(C2=CC=CC=C12)C(=O)O | C8H6N2O2
reactant | carbonyl diimidazole | 33.9 mmol, 5.0 g | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
reactant | dimethylamine hydrochloride | 4.0 g | Cl.CNC
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 150 mL | CN(C=O)C | C3H7NO
product | N,N-dimethyl-1H-indazole-3-carboxamide | CN(C(=O)C1=NNC2=CC=CC=C12)C | C10H11N3O
